US06812227B2
A solution of 4-([4-(2-butynyloxy)phenyl]sulfonyl}-morpholine-3-carboxylic acid (0.52 g, 1.53 mmol) and DMF (0.24 mL, 3.1 mmol) in dichloromethane (6 mL) was cooled in an ice bath and oxalyl chloride (1.54 mL of 2M in CH2Cl2; 3.1 mmol) was added dropwise. The reaction mixture was stirred at 0° C. for 10 minutes and at room temperature for 2 hours and then recooled to 0°. A THF (4.5 mL) solution of triethyl amine (0.86 mL, 6.13 mmol) and hydroxylamine (0.56 mL of 50% hydroxyamine in water, 9 mmol) was added in one portion. The reaction was stirred at room temperature overnight. After removing the solvent, the oily residue was diluted with ethyl acetate and water. The organic layer was washed with water and brine, dried over sodium sulfate, filtered and evaporated to obtain 0.42 g of 4-([4-(2-butynyloxy)phenyl]sulfonyl}-N-hydroxy-3-morpholinecarboxamide. Yield˜77.8%. mp 68-72° C. Electrospray Mass Spec 355.2(M+H)+.

reactant | 4-([4-(2-butynyloxy)phenyl]sulfonyl}-morpholine-3-carboxylic acid | 1.53 mmol, 0.52 g | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)N1C(COCC1)C(=O)O | C15H17NO6S
reactant | DMF | 3.1 mmol, 0.24 mL | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 3.1 mmol, 2M, 1.54 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | triethyl amine | 6.13 mmol, 0.86 mL | C(C)N(CC)CC | C6H15N
reactant | hydroxylamine | 9 mmol, 0.56 mL | NO | H3NO
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
solvent | THF | 4.5 mL | C1CCOC1 | C4H8O
product | 4-([4-(2-butynyloxy)phenyl]sulfonyl}-N-hydroxy-3-morpholinecarboxamide | 0.42 g, Yield˜77.8% | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)N1C(COCC1)C(=O)NO | C15H18N2O6S
